US04476130
A mixture of 1.34 g (10.0 mmole) of 2-aminobenzoxazole, 1.56 g (10.0 mmole) of ethyl tetrazol-5-ylacetate, 1.65 g (11.1 mmole) of triethyl orthoformate and 0.3 g (2.2 mmole) of aluminum trichloride in 25 ml of 1,1,2,2-tetrachloroethane was heated under a nitrogen atmosphere at 125° to 130° C. for about 19 hours. The mixture was cooled and the resulting solid was separated by filtration and washed with methanol to provide 0.72 g (28%) of crude 3-(1H-tetrazol-5-yl)-4-H-pyrimido[2,1-b]benzoxazol-4-one. Infrared spectral analysis of the crude product confirmed the structural assignment.

reactant | 2-aminobenzoxazole | 10.0 mmole, 1.34 g | NC=1OC2=C(N1)C=CC=C2 | C7H6N2O
reactant | ethyl tetrazol-5-ylacetate | 10.0 mmole, 1.56 g | N1N=NN=C1CC(=O)OCC | C5H8N4O2
reactant | triethyl orthoformate | 11.1 mmole, 1.65 g | C(OCC)(OCC)OCC | C7H16O3
reactant | aluminum trichloride | 2.2 mmole, 0.3 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | 1,1,2,2-tetrachloroethane | 25 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
product | 3-(1H-tetrazol-5-yl)-4-H-pyrimido[2,1-b]benzoxazol-4-one | 0.72 g, 28% | N1N=NN=C1C1=CN=C2OC3=C(N2C1=O)C=CC=C3 | C11H6N6O2
